US04978753
In the manner given in Example 1, 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine, methyl propiolate and methanol were refluxed. The mixture was chromatographed to give 9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-] | C15H11ClN4O2
reactant | methyl propiolate | C(C#C)(=O)OC | C4H4O2
solvent | methanol | CO | CH4O
product | 9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3)Cl)C1 | C18H11ClN4O3
